US07569518B2
0.25 g of 5-(4-chlorophenyl)-4-(2,6-difluoro-4-ethoxyphenyl)-6-methyl-2H-pyridazin-3-one and 5 g of phosphorus oxychloride were mixed and stirred at 110° C. for 1 hour. The reaction mixture was allowed to cool down to room temperature and concentrated under reduced pressure. To the residue was added ethyl acetate and ice water, and was separated to two layer. The organic layer was washed sequentially with water and saturated brine, and dried over anhydrous sodium sulfate, then, concentrated under reduced pressure. The residue was subjected to preparative thin layer chromatography (stationary phase: silica gel, developing solvent: hexane/ethyl acetate=3/1), to obtain 0.16 g of 3-chloro-5-(4-chlorophenyl)-4-(2,6-difluoro-4-ethoxyphenyl)-6-methylpyridazine (hereinafter, referred to as compound (vi) of the present invention).

reactant | 5-(4-chlorophenyl)-4-(2,6-difluoro-4-ethoxyphenyl)-6-methyl-2H-pyridazin-3-one | 0.25 g | ClC1=CC=C(C=C1)C1=C(C(NN=C1C)=O)C1=C(C=C(C=C1F)OCC)F | C19H15ClF2N2O2
reactant | phosphorus oxychloride | 5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-5-(4-chlorophenyl)-4-(2,6-difluoro-4-ethoxyphenyl)-6-methylpyridazine | 0.16 g | ClC=1N=NC(=C(C1C1=C(C=C(C=C1F)OCC)F)C1=CC=C(C=C1)Cl)C | C19H14Cl2F2N2O
